US04122274
7-Chloro-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one
Aluminum chloride (0.72 g., 5.45 mmoles) was carefully added to cold (-30°) tetrahydrofuran (29 ml.). Sodium azide (1.06 g., 16.27 mmoles) was then added and the mixture heated under reflux for 30 minutes. 7-Chloro-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carbonitrile (1.0 g., 4.47 mmoles) was added and the mixture heated under reflux for 18 hours. The cooled mixture was poured onto 500 ml. of ice water and the resulting mixture acidified to pH 2 with 6N hydrochloric acid. The precipitate was collected and recrystallized from N,N-dimethylformamide to give the title compound (0.55 g., 49.5%), m.p. 300°-301° (decomp).

reactant | Aluminum chloride | 5.45 mmoles, 0.72 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Sodium azide | 16.27 mmoles, 1.06 g | [N-]=[N+]=[N-].[Na+]
reactant | 7-Chloro-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carbonitrile | 4.47 mmoles, 1.0 g | ClC=1C=CC=2N(C(C(=CN2)C#N)=O)C1 | C9H4ClN3O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 29 ml | O1CCCC1 | C4H8O
product | 7-Chloro-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | 0.55 g, 49.5% | ClC=1C=CC=2N(C(C(=CN2)C2=NN=NN2)=O)C1 | C9H5ClN6O
